US07700628B2
C. 2-[2-[3-(tert-Butoxycarbonylamino)propoxy]-4-(morpholin-4-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide
Using a procedure analogous to Example 4-C, 2-[3-(tert-butoxycarbonylamino)-propoxy]-4-(morpholin-4-yl)benzoic acid and N-(5-chloropyridin-2-yl)-2-amino-5-fluorobenzamide gave the desired product as a solid (2.56 g, 70%).

reactant | 2-[3-(tert-butoxycarbonylamino)-propoxy]-4-(morpholin-4-yl)benzoic acid | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)O)C=CC(=C1)N1CCOCC1 | C19H28N2O6
reactant | N-(5-chloropyridin-2-yl)-2-amino-5-fluorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)N)=O | C12H9ClFN3O
product | 2-[2-[3-(tert-Butoxycarbonylamino)propoxy]-4-(morpholin-4-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | 2.56 g, 70% | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=CC(=C1)N1CCOCC1 | C31H35ClFN5O6
